US09302988B2
Under an nitrogen atmosphere (1-benzyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone (50 mg, 0.106 mmol) was dissolved in DMF (0.5 mL) and LiOH (2 mg, 0.106 mmol), bis(tri-tert-butylphosphine)palladium (0) (3 mg, 0.007 mmol) and 1-bromo-2-fluoro-4-(trifluoromethoxy)benzene (24 mg, 0.096 mmol) were subsequently added. The reaction mixture was stirred at 80° C. under microwave irridation for 1 h. The mixture was cooled to RT and the reaction was stopped by addition of 1M NaOH solution (2 mL). The crude product was extracted with EtOAc (2×3 mL) and the combined organic layers were washed with water (3×1 mL), dried over Na2SO4, filtered and the solvent was removed under reduced pressure. The crude mass was purified by flash chromatography to give SC-262 (34 mg, 66.8%).

reactant | (1-benzyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | 0.106 mmol, 50 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)B1OC(C(O1)(C)C)(C)C)C(=O)N1CCOCC1 | C24H30BF3N2O4
reactant | LiOH | 0.106 mmol, 2 mg | [Li+].[OH-]
reactant | 1-bromo-2-fluoro-4-(trifluoromethoxy)benzene | 0.096 mmol, 24 mg | BrC1=C(C=C(C=C1)OC(F)(F)F)F | C7H3BrF4O
reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | bis(tri-tert-butylphosphine)palladium | 0.007 mmol, 3 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (1-benzyl-3-(2-fluoro-4-(trifluoromethoxy)phenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | 34 mg, 66.8% | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=C(C=C(C=C1)OC(F)(F)F)F)C(=O)N1CCOCC1 | C25H21F7N2O3
